US05686445
A mixture of 48.52 g (0.20 mol) of 2-aminobenzophenone-2'-carboxylic acid and 500 ml of xylene is refluxed for 67 hours, cooled to room temperature and filtered. The solid is washed with xylene to give 43.3 g (97.8%) of 5H-dibenz[b,e]azepine-6,11-dione as light tan crystals, m.p. 245°-248° C. To 4.46 g (0.020 mol) of the preceding compound in 25 ml of tetrahydrofuran is added 12 ml (0.12 mol) of a 10 molar solution of boron-dimethylsulfide in tetrahydrofuran. An additional 10 ml of tetrahydrofuran is added and the mixture is stirred overnight and then is refluxed (solids dissolve) for 4 hours. The solution is cooled and 15 ml of methanol added dropwise. The mixture is concentrated under vacuum, 50 ml of 2N sodium hydroxide is added and the mixture refluxed for 2 hours. The solid is filtered, washed with water, air dried and extracted with dichloromethane. The extract is dried (Na2SO4) and the solvent removed to give 3.25 g (83%) of crystals, m.p. 117°-122° C.

reactant | 2-aminobenzophenone-2'-carboxylic acid | 0.20 mol, 48.52 g | C1=CC=C(C(=C1)C(=O)C2=CC=CC=C2N)C(=O)O | C14H11NO3
solvent | xylene | 500 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 5H-dibenz[b,e]azepine-6,11-dione | 43.3 g, 97.8% | C1=CC=CC=2NC(C3=C(C(C21)=O)C=CC=C3)=O | C14H9NO2
